US06503907B2
150 mg (0.43 mmol) Methanesulfonic acid 3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-propyl ester and 0.5 ml N-allylmethylamine in 1 ml DMF were stirred at 60° C. for 1 h. The solution was concentrated and dissolved in water, ether and 0.5M NaOH was added. The inorganic phase was extracted with ether and the combined organic phases were washed with water and dried over Na2SO4. Column chromatography with CH2Cl2/MeOH 19:1 yielded 105 mg (76%) Allyl-{3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-propyl}-methyl-amine as light brown oil, MS: 323 (MH+).

reactant | Methanesulfonic acid 3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-propyl ester | 0.43 mmol, 150 mg | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)CCCOS(=O)(=O)C | C18H18FNO3S
reactant | N-allylmethylamine | 0.5 ml | C(C=C)CN | C4H9N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | Allyl-{3-[1-(4-fluoro-phenyl)-1H-indol-5-yl]-propyl}-methyl-amine | 105 mg, 76% | C(C=C)N(C)CCCC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H23FN2
